US09085555B2
5-Trifluoromethyl-1H-pyrazolo[3,4-c]pyridine
A solution of 4-methyl-6-(trifluoromethyl)pyridin-3-amine [944317-54-8] (1.00 g, 5.68 mmol) in acetic acid (75 mL) was treated with a solution of sodium nitrite (392 mg, 5.68 mmol) in water (1 mL). The reaction mixture was stirred at RT for 15 min and then was allowed to stand at ambient temperature for 48 h. Acetic acid was evaporated under reduced pressure and the residual aqueous solution was partitioned between EtOAc and sat. aq. NaHCO3. The organic solution was washed with water and brine, then dried (Phase separator) and concentrated under vacuum. MS (LC-MS): 188 [M+H]+, tR (HPLC conditions k): 2.49 min.

reactant | 4-methyl-6-(trifluoromethyl)pyridin-3-amine | 5.68 mmol, 1.00 g | CC1=C(C=NC(=C1)C(F)(F)F)N | C7H7F3N2
reactant | sodium nitrite | 5.68 mmol, 392 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
solvent | water | 1 mL | O | H2O
product | 5-Trifluoromethyl-1H-pyrazolo[3,4-c]pyridine | FC(C=1C=C2C(=CN1)NN=C2)(F)F | C7H4F3N3
